US08420655B2
To a stirred solution of 2-isoxazol-5-yl-benzoic acid methyl ester (385 mg, 1.895 mmol) in THF (4 mL) is added lithium borohydride (82.5 mg, 3.790 mmol). The reaction mixture is stirred at room temperature for 42 hours. After this time, the reaction mixture is quenched with 1N hydrochloric acid aqueous solution and is extracted with EtOAc (2×10 mL). The organics are combined and washed with brine, dried over Na2SO4 (500 mg), filtered and concentrated in vacuo. The residue is purified using silica gel flash column chromatography with 1-10% MeOH in CH2Cl2 as the eluent to give (2-isoxazol-5-yl-phenyl)-methanol (170 mg, 51%).

reactant | 2-isoxazol-5-yl-benzoic acid methyl ester | 1.895 mmol, 385 mg | COC(C1=C(C=CC=C1)C1=CC=NO1)=O | C11H9NO3
reactant | lithium borohydride | 3.790 mmol, 82.5 mg | [BH4-].[Li+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (2-isoxazol-5-yl-phenyl)-methanol | 170 mg, 51% | O1N=CC=C1C1=C(C=CC=C1)CO | C10H9NO2
